US07256298B2
To a solution of 3.7 g (purity: 83.4%, 11.7 mmol) of 4-chloromethyl-5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole in 20 ml of ethanol was added 0.8 g (11.1 mmol) of thiourea, followed by stirring at room temperature overnight and further heating and stirring at 50° C. for 1 hour. The solvent was removed by evaporation under reduced pressure and the residue was washed with n-hexane to obtain 3.8 g (yield: 96.4%) of 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrochloride as white crystals (melting point: 117 to 119° C.)

reactant | 4-chloromethyl-5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole | 11.7 mmol, 3.7 g | ClCC=1C(=NN(C1OC(F)F)C)C(F)(F)F | C7H6ClF5N2O
reactant | thiourea | 11.1 mmol, 0.8 g | NC(=S)N | CH4N2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrochloride | 3.8 g, yield: 96.4% | Cl.FC(OC1=C(C(=NN1C)C(F)(F)F)CSC(N)=N)F | InChI=1S/C8H9F5N4OS.ClH/c1-17-5(18-6(9)10)3(2-19-7(14)15)4(16-17)8(11,12)13;/h6H,2H2,1H3,(H3,14,15);1H
